US07544697B2
Ethyl 5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carboxylate was prepared from 6-chloro-2-hexanone (50.0 g, 357 mmol) and diethyl oxalate (48.4 mL, 357 mmol) according to the procedure described in Part A of Example 19 using methyl hydrazine (19.0 mL, 357 mmol) in place of ethylhydrazine oxalate. Ethyl 5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carboxylate was isolated as a dark oil that was used without purification in the next step.

reactant | 6-chloro-2-hexanone | 357 mmol, 50.0 g | ClCCCCC(C)=O | C6H11ClO
reactant | diethyl oxalate | 357 mmol, 48.4 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | methyl hydrazine | 357 mmol, 19.0 mL | CNN | CH6N2
product | Ethyl 5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carboxylate | ClCCCCC1=CC(=NN1C)C(=O)OCC | C11H17ClN2O2
